* Z:\mnt\design.r\spice\examples\1182.asc
Q1 N005 N007 N010 0 NP
Q2 N006 N008 N010 0 NP
L1 N005 N004 20µ
L2 N004 N006 20µ
C1 N006 N005 .068µ
L3 N008 N007 1µ
V1 N001 0 28
L4 N002 N003 50m
R1 N003 N002 70K
L5 N010 N014 100µ
D1 N014 N001 1N5818
R2 N004 N009 220K
R3 N009 N010 100K
C3 N004 N009 1000p
D2 0 N014 1N5818
C4 N022 0 1µ
V2 N011 0 5
C5 N001 0 2.2µ
R5 N001 N008 500
R6 N003 0 1G
XU1 0 N019 0 N022 0 N017 N021 0 N015 N018 N018 N011 N004 N001 N009 N014 LT1182
R7 N011 N019 89.6K
C2 N020 0 .1µ
R4 N021 N020 10K
L6 N015 N001 100µ
L7 N013 0 100µ
D3 N013 N012 1N5819
C6 N012 0 1µ
R8 N012 N016 {20K}
R9 N016 N018 8.24K
R10 N018 0 1.21K
R11 N012 0 500
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m startup
K1 L1 L2 L3 L4 1
* BAT
.model NP NPN
K1 L6 L7 1
.lib LT1182.sub
.backanno
.end
